US04985419
1,2-Diaminocyclohexane (9.12 g) is added to an ethanolic solution (32 cc) of 10-[(2RS)-1-(pyrrolidinyl)-2-propyl]-2-phenothiazinecarbothioamide (2.96 g). The mixture is heated in an autoclave to 150° C. for 10 hours. The reaction mixture is diluted with ethyl acetate (150 cc) and washed with distilled water (4×100 cc). The organic phase is separated after settling has taken place, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The residue is purified by chromatography on a column (height: 23 cm; diameter: 2.5 cm) of FLUKA type 507 C neutral alumina, eluting with 50:50 (by volume) mixtures (1 liter) of cyclohexane and ethyl acetate and collecting 50-cc fractions. Fractions 2 to 15 containing the pure product are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. to give 2-(3a,4,5,6,7,7a-hexahydro-1H-benzimidazol-2-yl)-10-[(2RS)-1-(pyrrolidinyl)-2-propyl]phenothiazine (1.07 g) in the form of a brown product of meringue-like consistency.

reactant | 1,2-Diaminocyclohexane | 9.12 g | NC1C(CCCC1)N | C6H14N2
reactant | 10-[(2RS)-1-(pyrrolidinyl)-2-propyl]-2-phenothiazinecarbothioamide | 32 cc, 2.96 g | N1(CCCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(N)=S | C20H23N3S2
solvent | ethyl acetate | 150 cc | C(C)(=O)OCC | C4H8O2
product | 2-(3a,4,5,6,7,7a-hexahydro-1H-benzimidazol-2-yl)-10-[(2RS)-1-(pyrrolidinyl)-2-propyl]phenothiazine | 1.07 g | N1C(=NC2C1CCCC2)C2=CC=1N(C3=CC=CC=C3SC1C=C2)C(CN2CCCC2)C | C26H32N4S
